US04713474
A similar procedure to Example 1 is carried out by using 7.8 g of propyl p-hydroxybenzoate and 18 g of succinic acid dichloride to yield di(p-propyloxycarbonylphenyl)succinate, m.p 122°-123.5° C., as white crystals.

reactant | propyl p-hydroxybenzoate | 7.8 g | OC1=CC=C(C(=O)OCCC)C=C1 | C10H12O3
reactant | succinic acid dichloride | 18 g | C(CCC(=O)Cl)(=O)Cl | C4H4Cl2O2
product | di(p-propyloxycarbonylphenyl)succinate | C(CC)OC(=O)C1=CC=C(C=C1)OC(CCC(=O)OC1=CC=C(C=C1)C(=O)OCCC)=O | C24H26O8
